US05262415
57 mg of platinum oxide was added to a solution of 6-(2-t-butoxycarbonylhydrazino)-3-nitropyridine (570 mg) in ethanol (10 ml). The mixture was vigorously stirred in an atmosphere of hydrogen at room temperature for 1 hour. After completion of the reaction, the reaction solution was filtered, and the filtered cake was thoroughly washed with ethanol. The filtrate and the washings were combined, and the solvent was removed by distillation to obtain 502 mg of 3-amino-6-(2-t-butoxycarbonylhydrazino)pyridine as a brown powder.

reactant | 6-(2-t-butoxycarbonylhydrazino)-3-nitropyridine | 570 mg | C(C)(C)(C)OC(=O)NNC1=CC=C(C=N1)[N+](=O)[O-] | C10H14N4O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | platinum oxide | 57 mg | [Pt]=O
product | 3-amino-6-(2-t-butoxycarbonylhydrazino)pyridine | 502 mg | NC=1C=NC(=CC1)NNC(=O)OC(C)(C)C | C10H16N4O2
